US05541217
3-Phenylcyclopent-1 -ene
A solution of 8 mL of 2M phenylmagnesium bromide in THF was added dropwise to a solution of 32.2 mL (0.016 mole) of 0.5M zinc chloride in THF. A solution of 3.05g (0.024 mole) of 3-acetoxycyclopent-1-ene in 25 mL of dry THF was added, and 321 mg of 1,2-bis(diphenylphosphino)ethane and 462 mg of palladium bis(dibenzylideneacetone) added. The reaction mixture was heated at 40° C. for 18h. The reaction was cooled to room temperature and the solids filtered off. Ether was added, and the organic layer was washed sequentially with saturated ammonium chloride, water, and brine. After drying (MgSO4), the solvent was evaporated in vacuo to give 6 g of a yellow oil. Flash chromatography (SiO2) eluting with hexane gave 760 mg of an oil. Mass spectrum (Cl-NH3) m/z=145 (M+1); 300 MHz NMR (CDCl3) δ 1.68-1.78 (m, 1H); 2.32-2.6 (m, 3H); 3.85-3.96 (m, 1H); 5.72-5.82 (m, 1H); 5.92-6.01 (m, 1H); 7.12-7.38 (m, 5H).

reactant | phenylmagnesium bromide | 2M, 8 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 3-acetoxycyclopent-1-ene | 0.024 mole, 3.05g | C(C)(=O)OC1C=CCC1 | C7H10O2
reactant | 1,2-bis(diphenylphosphino)ethane | 321 mg | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 0.016 mole, 0.5M, 32.2 mL | [Cl-].[Zn+2].[Cl-]
catalyst | palladium bis(dibenzylideneacetone) | 462 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
product | 3-Phenylcyclopent-1 -ene | 6 g | C1(=CC=CC=C1)C1C=CCC1 | C11H12
